US07342118B2
2-(6,8-Difluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-pentanoic acid [1-(1,1-dimethyl-2-pyrrolidin-1-yl-ethyl)-1H-imidazol-4-yl]-amide
Following the procedure for Example 86, 2-(6,8-Difluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-pentanoic acid (diastereomer 2) was reacted with 1-(1,1-Dimethyl-2-pyrrolidin-1-yl-ethyl)-4-nitro-1H-imidazole to afford the title compound: C13 NMR (100 MHz, CDCl3) 14.2, 19.5, 24.3, 26.6, 28.2, 28.8, 28.9, 29.8, 36.6, 52.8, 56.0, 59.1, 60.9, 67.3, 100.8, 101.1, 101.3, 104.8, 110.7, 110.9, 112.5, 131.2, 137.3, 172.4; MS m/z 474.3 (M+1).

reactant | 2-(6,8-Difluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-pentanoic acid | FC=1C=C2CCC(CC2=C(C1)F)NC(C(=O)O)CCC | C15H19F2NO2
reactant | 1-(1,1-Dimethyl-2-pyrrolidin-1-yl-ethyl)-4-nitro-1H-imidazole | CC(CN1CCCC1)(C)N1C=NC(=C1)[N+](=O)[O-] | C11H18N4O2
product | 2-(6,8-Difluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-pentanoic acid [1-(1,1-dimethyl-2-pyrrolidin-1-yl-ethyl)-1H-imidazol-4-yl]-amide | CC(CN1CCCC1)(C)N1C=NC(=C1)NC(C(CCC)NC1CC2=C(C=C(C=C2CC1)F)F)=O | C26H37F2N5O
